Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[H:14],3.3918268779100003
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3][C:4]([H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],1.03289840706
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.66014814381
[O:1]=[C:2][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-6.2899084706
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.1628633767800025
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3]/[C:4]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11].[H:5],1.5438976298500002
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1],4.77116998671
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2],5.98040261618
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8],1.99313788426
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[H:12],5.10174869393
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2]=[C:3]1[O:4][C:5][C@:6]1([H:7])[O:8][H:9],0.853720058019
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:15]([H:16])[H:17],4.78059767455
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.43293764918
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.94154069246
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:3],1.97511196648
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6],2.24578357162
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7],3.4969941003
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[H:15],8.28506703135
[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.77545264551
[O:1]=[C:2][C:10]([C:7]([O:6][C:3]([H:4])[H:5])([H:8])[H:9])([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-3.27422688722
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([O:6])([H:8])[H:9]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]1([H:8])[H:9],0.14198705598
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4],2.7781758292400003
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.88835845665
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],1.68793045505
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.45702951146
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.84947353577
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10][H:11],5.45472998106
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[C:1]#[C:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-0.0645310641603
